US07125896B2
b) 1-(5-Bromo-pyridin-2-yl)-4-methylpiperazine
Prepared from 2,5-dibromopyridine and 4-methylpiperazine in a similar manner to Example 9(d).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-(5-Bromo-pyridin-2-yl)-4-methylpiperazine | BrC=1C=CC(=NC1)N1CCN(CC1)C | C10H14BrN3
